US07947686B2
Step 1. Preparation of 2,4-difluoro-benzoic acid tert-butyl ester
To a solution of 2,4-difluorobenzoic acid (5 g, 31.62 mmol) in a mixture of dichloromethane (100 mL) and t-BuOH (50 mL) were added (BOC)2O (13.8 g, 63.24 mmol) and N,N-dimethylaminopyridine (1.16 g, 9.49 mmol). The solution was stirred at room temperature for 24 hours then diluted with dichloromethane and washed with 1N HCl (2×), NaHCO3 saturated solution (1×), water (3×) and brine (1×). The organic phase was dried over sodium sulfate filtered and evaporated to give the title compound (5.70 g, 84%) as yellowish oil.

reactant | 2,4-difluorobenzoic acid | 31.62 mmol, 5 g | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
reactant | (BOC)2O | 63.24 mmol, 13.8 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
product | 2,4-difluoro-benzoic acid tert-butyl ester | 5.70 g, 84% | C(C)(C)(C)OC(C1=C(C=C(C=C1)F)F)=O | C11H12F2O2
